US06797725B2
A reaction mixture of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazole-1-ylcarbonyl)-1,3-dihydro-indol-2-one (5.3 mg, 0.016 mmol) in 1.0 mL of methanol was stirred at room temperature for 64 h and filtered. The red solid was washed with methanol and dried in a vacuum oven overnight to afford 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid methyl ester (3.0 mg, 63%) as a red solid. 1H NMR (400 MHz, DMSO-d6) d 12.63 (s, 1H, NH-1′), 7.84-7.86 (m, 1H), 7.69 (s, 1H, H-vinyl), 7.56-7.68 (m, 1H), 7.19-7.22 (m, 2H), 6.06 (d, J=2.34 Hz, 1H, H-4′), 4.08 (s, 3H, OCH3), 2.40 (s, 3H, CH3), and 2.36 (s, 3H, CH3). MS m/z (relative intensity, %) 297 (100, [M+1]+.)

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazole-1-ylcarbonyl)-1,3-dihydro-indol-2-one | 0.016 mmol, 5.3 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C=NC=C1)=O | C19H16N4O2
reactant | methanol | 1.0 mL | CO | CH4O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid methyl ester | 3.0 mg, 63% | COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C17H16N2O3
